US07528271B2
Continuous Synthesis of 2,3-Dimethoxy-5-methyl-[1,4]benzoquinone [CoQ0]
3,4,5-Trimethoxy toluene (18.2 g, MW 182.21, 0.1 mol), para-toluene sulphonic acid (1.7 g, MW 172.13, 0.01 mol) are dissolved in glacial acetic acid to give a total volume of 50 ml and the solution is connected to the pump 1. Hydrogen peroxide (0.2 mol, MW 34.02, 21.6 ml if H2O2 at 30% and 17.5 ml if H2O2 at 35%) diluted to 50 ml with glacial acetic acid is connected to the pump 1 (second tube). The nitric acid (90%, 0.05 mol, MW 63.02, d 1.49, 3.15 g, 3.5 g solution 90%, 2.35 ml solution 90%) dissolved in acetic acid (to 50 ml) is connected to the pump 2. The pump 1 is pumping approximately 3.8 ml/min for each of the two reagent solutions (total speed flow 7.6 ml/min, i.e. 38 ml reactor volume/5 min RT). Isoversinic tubes (ID 2 mm) was used on the peristaltic pump. The residence time of the reaction was about 5 min (38 ml volume reactor) and the reaction was performed at 75° C. pumping the solutions of the pumps 1. After 5 min the nitric acid solution was pumped at 3.8 ml/min into the second section of the reactor (11 ml, volume reactor) cooled by a cold water circuit.

reactant | 3,4,5-Trimethoxy toluene | 0.1 mol, 18.2 g | COC=1C=C(C=C(C1OC)OC)C | C10H14O3
reactant | para-toluene sulphonic acid | 0.01 mol, 1.7 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | Hydrogen peroxide | 0.2 mol, 21.6 ml | OO | H2O2
reactant | nitric acid | 0.05 mol, 2.35 ml, 3.15 g | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2,3-Dimethoxy-5-methyl-[1,4]benzoquinone | COC=1C(C=C(C(C1OC)=O)C)=O | C9H10O4
